US04352818
9.2 g of 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid are heated to 290°. After completion of the carbon dioxide evolution, the product is dissolved in chloroform and treated with hexane. The precipitated crystals are filtered off under suction and dried. There is obtained 8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]-benzodiazepin-6-one of melting point 236°.

reactant | 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 9.2 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)O)C)=O)C1 | C13H10FN3O3
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hexane | CCCCCC | C6H14
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | FC=1C=CC2=C(C(N(CC=3N2C=NC3)C)=O)C1 | C12H10FN3O
